US07199125B2
(7aS)-7a-[(4-bromophenyl)methyl]-2-(3,5-dichlorophenyl)dihydro-1H-pyrrolo[1,2-c]imidazole-1,3,6(2H,5H)-trione
To a solution of (6R,7aS)-7a-(4-bromobenzyl)-2-(3,5-dichlorophenyl)-6-hydroxytetrahydro-1H-pyrrolo[1,2-c]imidazole-1,3(2H)-dione (Preparation 4), (0.2 g, 0.42 mmol) in dichloromethane (5 mL) was added Dess-Martin periodane reagent (0.216 g, 0.504 mmol) in one lot at room temperature. The reaction mixture was stirred at room temperature for one hour and partitioned between dichloromethane (15 mL) and 1N NaOH (15 mL). The dichloromethane layer was washed with brine (2×20 mL), dried over sodium sulfate and concentrated to yield the title compound as a foamy solid (0.185 g). Retention time=3.84 min; column: YMC S5 Combiscreen ODS 4.6×50 mm (4 min. gradient); Solvent A=10% MeOH, 90% H2O, 0.2% H3PO4; Solvent B=90% MeOH, 10% H2O and 0.2% H3PO4.

reactant | (6R,7aS)-7a-(4-bromobenzyl)-2-(3,5-dichlorophenyl)-6-hydroxytetrahydro-1H-pyrrolo[1,2-c]imidazole-1,3(2H)-dione | 0.42 mmol, 0.2 g | BrC1=CC=C(C[C@@]23N(C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C[C@@H](C3)O)C=C1 | C19H15BrCl2N2O3
reactant | Dess-Martin periodane | 0.504 mmol, 0.216 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (7aS)-7a-[(4-bromophenyl)methyl]-2-(3,5-dichlorophenyl)dihydro-1H-pyrrolo[1,2-c]imidazole-1,3,6(2H,5H)-trione | 0.185 g | BrC1=CC=C(C=C1)C[C@@]12N(C(N(C1=O)C1=CC(=CC(=C1)Cl)Cl)=O)CC(C2)=O | C19H13BrCl2N2O3
